US07214681B2
Preparation 38: 2-(4-Methanesulfonylphenyl)-3-thiophen-2-ylpropionic acid
DMPU (50 mL, 413 mmol) was added to a solution of LDA (65 mL of a 1.8M solution in n-C7H16-THF-PhEt, 117 mmol) in anhydrous THF (250 mL) at −78° C. The mixture was stirred for 1 h to generate a cream precipitate. A solution of (4-methanesulfonylphenyl)acetic acid (12.00 g, 56 mmol) in anhydrous THF (120 mL) was added over 20 min. More anhydrous THF (30 mL) was added, then the thick yellow slurry was stirred for 1 h. The mixture was treated with a solution of 2-chloromethylthiophene (7.50 g, 57 mmol) and PhMe (5.20 g, 57 mmol) in anhydrous THF (20 mL), then stirring was continued at −78° C. for 20 min. The reaction mixture was then allowed to warm to 20° C. over 16 h, before being quenched with H2O (500 mL). The THF was removed under reduced pressure, then 12M HCl was added to adjust the pH to 2. The mixture was extracted with EtOAc (2×300 mL), then the extracts were washed with H2O (2×200 mL) and brine (2×100 mL), before being dried (MgSO4). Filtration, solvent evaporation, and column chromatography (IH-EtOAc, 3:2 containing 0.5% AcOH) furnished the title compound: m/z (ES+)=638.3 [2M+NH4]+.

reactant | DMPU | 413 mmol, 50 mL | CN1CCCN(C1=O)C | C6H12N2O
reactant | LDA | [Li+].CC(C)[N-]C(C)C
reactant | (4-methanesulfonylphenyl)acetic acid | 56 mmol, 12.00 g | CS(=O)(=O)C1=CC=C(C=C1)CC(=O)O | C9H10O4S
reactant | 2-chloromethylthiophene | 57 mmol, 7.50 g | ClCC=1SC=CC1 | C5H5ClS
reactant | PhMe | 57 mmol, 5.20 g | C1(=CC=CC=C1)C | C7H8
solvent | n-C7H16 THF PhEt | CCCCCCC.C1CCOC1.C1(=CC=CC=C1)CC
solvent | THF | 250 mL | C1CCOC1 | C4H8O
solvent | THF | 120 mL | C1CCOC1 | C4H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | 2-(4-Methanesulfonylphenyl)-3-thiophen-2-ylpropionic acid | CS(=O)(=O)C1=CC=C(C=C1)C(C(=O)O)CC=1SC=CC1 | C14H14O4S2
